* TB
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/JNWATR_NCH_2C2F2_lpe.spi
#else
.include ../../../work/xsch/JNWATR_PCH_4C1F2.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VS  S  0     dc 0
VD 0 D dc {AVDD}
VG 0 G dc {AVDD}

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
*XDUT D G 0 0 JNWATR_PCH_4C1F2
.include ../xdut.spi
*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------

.save v(D) v(G) v(S) v(B) i(XDUT.D)

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

save @m.xdut.xm1.msky130_fd_pr__pfet_01v8[gm]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vth]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vdsat]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[id]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[cgs]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[cgg]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[cgd]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[gds]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[w]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[l]


optran 0 0 0 100p 2n 0

dc VG 0 1.8 0.1

let id = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[id]
let wl = (@m.xdut.xm1.msky130_fd_pr__pfet_01v8[w]/@m.xdut.xm1.msky130_fd_pr__pfet_01v8[l])
let gm = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[gm]
let gds = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[gds]
let vdsat = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vdsat]
let vth = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vth]

write
quit
#endif

.endc

.end
